US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid Cyclopropylmethyl-amide
To a solution of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester (100 mg, 0.162 mmol) in DMA (2 mL) was added C-cyclopropyl-methylamine (23 mg, 2 eq.). The mixture was stirred at rt for 18 hours. The reaction was concentrated, diluted with DCM, washed with sat.NaHCO3 and water, concentrated and triturated with methanol to give the titled compound as a yellow solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester | 0.162 mmol, 100 mg | N1=NN(C2=NC=CC=C21)OC(=O)C2=C(NC(=C2C)\C=C\2/C(NC1=CC=C(C=C21)S(=O)(=O)CC2=C(C=CC=C2Cl)Cl)=O)C | C28H20Cl2N6O5S
reactant | C-cyclopropyl-methylamine | 23 mg, 2 eq. | C1(CC1)CN | C4H9N
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid Cyclopropylmethyl-amide | C1(CC1)CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C27H25Cl2N3O4S
